US06710060B2
Synthesis of N-(4-methoxyphenyl)-N-methyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide
A solution of 4′-methoxy-N-methylacetanilide (12 g) in an anhydrous tetrahydrofuran (30 mL) was added to a solution in an anhydrous tetrahydrofuran (100 mL) of lithium diisopropylamide prepared from diisopropylamine (10.5 mL) and n-butyl lithium (1.53M hexane solution; 48 mL) at below −65° C., and the mixture was stirred at −78° C. for 15 minutes. An anhydrous tetrahydrofuran solution (20 mL) of 1-benzylpiperidin-4-one (12.7 g) was then added to this reaction mixture at below −65° C., and the resulting mixture was stirred at −78° C. for 10 minutes. After increasing the temperature to room temperature, water was added to the mixture, and the mixed solution was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate, followed by distilling off the solvent under reduced pressure. The residue obtained was recrystallized from ether-hexane to obtain the titled compound (17.2 g).

reactant | 4′-methoxy-N-methylacetanilide | 12 g | COC1=CC=C(N(C(C)=O)C)C=C1 | C10H13NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 10.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.53M, 48 mL | C(CCC)[Li]
reactant | 1-benzylpiperidin-4-one | 12.7 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(4-methoxyphenyl)-N-methyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide | 17.2 g | COC1=CC=C(C=C1)N(C(CC1(CCN(CC1)CC1=CC=CC=C1)O)=O)C | C22H28N2O3
